US08426604B2
D. 1-Bromomethyl-4-methanesulfonyl-2-trifluoromethyl-benzene
(4-Methanesulfonyl-2-trifluoromethyl-phenyl)-methanol (4.87 mmol) was dissolved in 40 mL of CH2Cl2 and the resulting solution was treated with PBr3 (1 N, 4.87 mL) at 0° C. for 4 h. The mixture was partitioned between CH2Cl2 and water. The combined CH2Cl2 extracts were washed with brine, dried and evaporated. The residue was purified by flash column chromatography on silica gel (heptane/EtOAc 3:1 v/v) to afford white crystals (1.24 g, 80%).

reactant | (4-Methanesulfonyl-2-trifluoromethyl-phenyl)-methanol | 4.87 mmol | CS(=O)(=O)C1=CC(=C(C=C1)CO)C(F)(F)F | C9H9F3O3S
reactant | PBr3 | 1 N, 4.87 mL | P(Br)(Br)Br | Br3P
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-Bromomethyl-4-methanesulfonyl-2-trifluoromethyl-benzene | 1.24 g, 80% | BrCC1=C(C=C(C=C1)S(=O)(=O)C)C(F)(F)F | C9H8BrF3O2S
